US05663181
5.6 g of ethyl cyanoacetate and 7.8 g of 4-chlorophenethylamine are refluxed for 9 h in 50 ml of ethanol to give a solution. After concentration and cooling, this solution gives a residue which crystallizes. This is taken up with ether, filtered off and washed with ether to give 7.8 g of N-2-(4-chlorophenyl)ethylcyanoacetamide in the form of a white solid melting at 122° C. Yield 70%.

reactant | ethyl cyanoacetate | 5.6 g | C(#N)CC(=O)OCC | C5H7NO2
reactant | 4-chlorophenethylamine | 7.8 g | ClC1=CC=C(CCN)C=C1 | C8H10ClN
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | N-2-(4-chlorophenyl)ethylcyanoacetamide | 7.8 g, Yield 70% | ClC1=CC=C(C=C1)CCNC(CC#N)=O | C11H11ClN2O
